resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.984734
R2 0 n2 1.003143
R3 0 n4 1.01363
R4 n1 n3 1.017404
R5 n1 n5 1.009894
R6 n2 n3 0.999329
R7 n2 n6 0.983141
R8 n3 n7 1.017722
R9 n4 n5 0.981929
R10 n4 n6 1.003429
R11 n5 n7 1.011839
R12 n6 n7 1.017511
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
